US07553837B2
Production of 6-nitro-2,5,7,8-tetramethylchroman-2-carboxylic acid
2.3 g of 6-nitro-2-formyl-2,5,7,8-tetramethylchroman was dissolved in 150 ml of t-butanol and 23 g of 2-methyl-2-butene was added at room temperature. An aqueous solution prepared by dissolving 5.8 g of sodium chlorite and 7.6 g of sodium dihydrogen phosphate dehydrate in 60 ml of water was added dropwise at room temperature, followed by stirring at room temperature for 2 hours. After the completion of the reaction, the reaction solution was poured into water and then extracted with ether. The organic layer was partitioned with an aqueous 5% sodium hydrogen carbonate solution and the ether layer was discarded. The pH of the aqueous layer was adjusted to 4 with 10% hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, the resulting crystal was washed with hexane to obtain 1.6 g of the objective product.

reactant | 6-nitro-2-formyl-2,5,7,8-tetramethylchroman | 2.3 g | [N+](=O)([O-])C=1C(=C2CCC(OC2=C(C1C)C)(C)C=O)C | C14H17NO4
reactant | 2-methyl-2-butene | 23 g | CC(C)=CC | C5H10
reactant | sodium chlorite | 5.8 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate | 7.6 g | P(=O)(O)(O)[O-].[Na+]
solvent | t-butanol | 150 ml | C(C)(C)(C)O | C4H10O
solvent | water | 60 ml | O | H2O
product | 6-nitro-2,5,7,8-tetramethylchroman-2-carboxylic acid | 1.6 g | [N+](=O)([O-])C=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H17NO5
